US07906516B2
2.1 1.49 ml (20.0 mmol) of 37% aqueous formaldehyde solution are added to a solution of 2.10 g (20.0 mmol) of D-serine in 10 ml of 1N aqueous sodium hydroxide solution. The resultant solution is left at 5° C. for 18 hours. The solution is heated to 80° C., 6.14 g (40 mmol) of 4-chlorophenyl isocyanate are added, and the mixture is stirred at this temperature for one hour. The mixture is allowed to cool, and the precipitate formed is filtered off. The filtrate is acidified using 1N HCl, and the precipitate formed is filtered off and dried, giving (R)-3-(4-chlorophenylcarbamoyl)oxazolidine-4-carboxylic acid as a colourless solid; ESI 271.

reactant | formaldehyde | C=O | CH2O
reactant | D-serine | 20.0 mmol, 2.10 g | N[C@H](CO)C(=O)O | C3H7NO3
reactant | 4-chlorophenyl isocyanate | 40 mmol, 6.14 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
product | (R)-3-(4-chlorophenylcarbamoyl)oxazolidine-4-carboxylic acid | ClC1=CC=C(C=C1)NC(=O)N1COC[C@@H]1C(=O)O | C11H11ClN2O4
